US07705042B2
5-Cyano-furan-2-carboxylic acid [4-(4-acetyl-piperazin-1-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide
To 40.0 mg (0.0546 mmol) of 5-cyano-furan-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperazin-1-yl-phenyl]-amide tris(trifluoroacetic acid salt) (as prepared in Example 16) suspended in 2 mL of anh THF was added 6.2 μL (0.0655 mmol) of acetic anhydride followed by 47.6 μL (0.716 mmol) of DIEA. After stirring for 20 min at RT, the mixture was poured into satd aq NaHCO3 (20 mL) and extracted with EtOAc (20 mL). The extract was dried (Na2SO4) and concentrated in vacuo and the resulting solid was chromatographed on a 2-g silica SPE column with 25-40% EtOAc-dichloromethane to afford 22.0 mg (92%) of the title compound as a crystalline yellow solid: 1H-NMR (CDCl3; 400 MHz): δ 9.59 (br s, 1H), 8.32 (d, 1H, J=8.9 Hz), 7.22, 7.25 (AB q, 2H, J=3.7 Hz, partially obscured by CHCl3 peak), 6.79 (d, 1H, J=2.6 Hz), 6.72 (dd, 1H, J=8.9, 2.6 Hz), 3.77-3.80 (m, 2H), 3.62-3.64 (m, 2H), 3.11-3.17 (m, 4H), 2.98-3.01 (m, 2H), 2.73-2.76 (m, 2H), 2.15 (s, 3H), 1.83-1.86 (m, 2H), 1.52-1.62 (m, 1H), 1.46-1.56 (m, 2H) and 1.07 (d, 3H, J=6.2 Hz). Mass spectrum (ESI, m/z): Calcd. for C24H29N5O3, 436.2 (M+H), found 436.2.

reactant | 5-cyano-furan-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperazin-1-yl-phenyl]-amide | 0.0546 mmol, 40.0 mg | CC1CCN(CC1)C1=C(C=CC(=C1)N1CCNCC1)NC(=O)C=1OC(=CC1)C#N | C22H27N5O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetic anhydride | 0.0655 mmol, 6.2 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | DIEA | 0.716 mmol, 47.6 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-Cyano-furan-2-carboxylic acid [4-(4-acetyl-piperazin-1-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide | 22.0 mg, 92% | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)NC(=O)C=1OC(=CC1)C#N)N1CCC(CC1)C | C24H29N5O3
